US05436134
Example 5: Preparation of the 1,2-dihydro-1,4-dimethyl-8-phenyl-2-quinolone
The starting material is 2-phcnylaniline, which is methylated with potassium carbonate and methyl iodide to obtain N-methyl-2-phenylaniline. The N-methyl-2-phenylaniline is treated with diketene and acid and is cyclized in acetic acid/sulfuric acid as in Example 3 to generate the desired quinolone.

reactant | N-methyl-2-phenylaniline | CNC1=C(C=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | quinolone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
solvent | acetic acid sulfuric acid | C(C)(=O)O.S(O)(O)(=O)=O
product | 1,2-dihydro-1,4-dimethyl-8-phenyl-2-quinolone | CN1C(C=C(C2=CC=CC(=C12)C1=CC=CC=C1)C)=O | C17H15NO
